
.lib CoolGaN Transistors 100 V G3 - Spice.lib
.lib LM5114A_TRANS.lib
.lib SN74LVC1G34.cir
.lib ST_POWER_SCHOTTKY_V10.LIB
.lib rb168lam100tf_ltspice.lib
.lib OptiMOS_OptiMOS5_60V_LTSpice.lib
*----------------Values------------------
*Design Choice
.param Vdc   = 25
.param Pout  = 30
.param fs    = 6.78Meg
;.param Qs    = 2
.param Coss  = 400p ;need to be measured
.param m     = 5    ; L1=m*L2
.param k     = 0.3  ;coil coupling coefficient
.param CD    = 50p  ;diode junction capacitor
.param Qcoil = 300  ;coil quality factor

*Component Value Calculation

;Due to the paper Design Considerations for Multimegahertz Resonant  Inductive Power Transfer
;formula(27);the equivalent resistant of the rectifier equals the 2RL calculated at the primary side

.param comL = 2.2u
.param w   = 2*pi*fs
.param Pdc_phase = Pout/2                   ;single phi-2 power
;.param RL_phase = 0.74 * Vdc**2 / Pdc_phase ;single phi-2 load
;.param Rload_tot = 2*RL_phase
.param Rload_tot = 50
.param RL_phase = 25
.param L2 = 0.94 * RL_phase / w
.param C2 = 1 / (4 * w**2 * L2)
.param C1_total = 0.61 / (w * RL_phase)
.param C1ext = C1_total -Coss
.param L1 = m * L2
*.param Ls = Qs * Rload_tot / w
.param Ls2 =  Rload_tot/(k*w)
*.param Ls2 = Ls/(1-k**2)
*.param Cs = 1 / (w * Qs * Rload_tot)
.param Cs2 = 1/((w**2)*Ls2)
.param coilesr= (w*Ls2)/Qcoil

*-------------transient---------------------
.param Duty     = 0.3  ;0.3-0.35
.param NCYCLES = 300
.param PPS     = 1000
.param TPER    = 1/fs
.param TSTOP   = NCYCLES*TPER
.param TSTEP   = TPER/PPS

;.step param Coss 100p 300p 10p
;.step param comL 2u 3u 0.1u
.tran 0 {TSTOP} 0 {TSTEP} uic
*.options method=gear abstol=1n vntol=1m reltol=0.01
.OPTIONS itl1=100000
.OPTIONS itl2=100000
.OPTIONS itl4=100000
.options method=Trap abstol=1n vntol=1e-3 reltol=0.001 solver=alt
.OPTIONS measdgt=99
.OPTIONS numdgt=99
.OPTIONS gmin=1e-15

*----------------topology-------------------
* DC input
V1 IN 0 {Vdc}
* Top Branch (Fa, MRa)
LFa IN N_Top_Mid {L1} Rser=1m
LMRa N_Top_Mid Mid_Node {L2}
* Bottom Branch (Fb, MRb)
LFb IN N_Bot_Mid {L1} Rser=1m
LMRb N_Bot_Mid Mid_Node {L2}
CMR Mid_Node 0 {2*C2}

* switches
Xtop N_Top_Mid Gtop 0 BSC065N06LS5_L1
Xbottom N_Bot_Mid Gbottom 0 BSC065N06LS5_L1
Cpa N_Top_Mid 0 {C1ext}
Cpb N_Bot_Mid 0 {C1ext}
DZ1 0  N_Top_Mid  DRB168LAM100TF
DZ2 0  N_Bot_Mid  DRB168LAM100TF

*Load Network
Cspri N_Top_Mid N_Cs1 {Cs2}
Lspri N_Cs1 N_Res {Ls2*(1-k**2)} Rser={coilesr}
;Lspri N_Cs1 N_Res {Ls2} Rser={coilesr}
;Rload N_Res N_Bot_Mid {Rload_tot}

*ideal transformer
Vsen  Sec_topa   Sec_top   0
E1   Sec_topa  Sec_bot N_Res   N_Bot_Mid  {1/k}
F1    N_Res   N_Bot_Mid    Vsen      {1/k}
Rpg N_Res   0     1e15
Rsg   Sec_topa  0     1e15

*secondary side
Lssec Sec_top   Sec_bot   {Ls2} Rser=1u
Rssec Sec_top   Sec_mid   {coilesr}
Cssec Sec_mid   Sec_r {Cs2}
;Rtestload Sec_r   Sec_bot {Rload_tot}


*full bridge
Lcomp Sec_r Sec_bot {comL}
D1 Sec_r  Vout  STPS360AF
D2 0   Sec_r    STPS360AF
D3 Sec_bot Vout STPS360AF
D4 0   Sec_bot  STPS360AF
C_O Vout 0 0.1u
R_L Vout 0 {(Rload_tot*(pi**2))/8}

*Buffer
Vg1 IN_TOP 0 PULSE(0 5 0 10n 10n {Duty*TPER} {TPER})
Vg2 IN_BOT 0 PULSE(0 5 {TPER/2} 10n 10n {Duty*TPER} {TPER})
VCC_BUF   VCC   0   5
XBUF_TOP   IN_TOP2   IN_TOP   VCC   0   SN74LVC1G34
XBUF_BOT   IN_BOT2   IN_BOT   VCC   0   SN74LVC1G34

*Gate Driver
VDD_TOP  VDDT  0  5
VDD_BOT  VDDB  0  5
XDRV_TOP  IN_TOP   0   VDDT   Gtop   GtopN   0   LM5114A
XDRV_BOT  IN_BOT   0   VDDB   Gbottom   GbottomN   0   LM5114A
RNTOP GtopN Gtop 1.5
RNBOT GbottomN Gbottom 1.5

*----------------measurement-------------------
.op
.meas show_LF     PARAM L1
.meas show_LMR     PARAM L2
.meas show_CMR     PARAM C2
.meas show_Cpext  PARAM C1ext
.meas show_RL     PARAM RL_phase
.meas show_L1andL2     PARAM Ls2
.meas show_C1andC2     PARAM Cs2

*power
;.meas Pavg INTEG I(Rload)*(V(N_Res)-V(N_Bot_Mid)) FROM {TSTOP-20*TPER} TO {TSTOP-10*TPER}
;.meas Pavg INTEG I(Rtestload)*(V(Sec_r)-V(Sec_bot)) FROM {TSTOP-20*TPER} TO {TSTOP}
.meas Pavg INTEG I(R_L)*V(Vout) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas Pin  INTEG I(V1)*V(in) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas eff PARAM (-Pavg/Pin)
.meas siwtchloss1 INTEG Ix(xbottom:drain) *V(n_bot_mid) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas siwtchloss2 INTEG Ix(xtop:drain) *V(n_top_mid) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas D1loss INTEG I(D1) *(V(Sec_r)-V(vout)) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas D2loss INTEG I(D2) *(-V(Sec_r)) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas D3loss INTEG I(D3) *(V(Sec_bot)-V(vout)) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas D4loss INTEG I(D4) *(-V(Sec_bot)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas LFApower INTEG I(LFa) *(V(IN)-V(N_Top_Mid)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas LFBpower INTEG I(LFb) *(V(IN)-V(N_Bot_Mid)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas LMRapower INTEG I(LMRa) *(-V(Mid_Node)+V(N_Top_Mid)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas LMRbpower INTEG I(LMRb) *(-V(Mid_Node)+V(N_Bot_Mid)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas CMRpower INTEG I(CMR) *V(Mid_Node) FROM {TSTOP-50*TPER} TO {TSTOP}
.meas Coil2power INTEG I(Rssec) *(-V(Sec_mid)+V(Sec_top)) FROM {TSTOP-50*TPER} TO {TSTOP}
;.meas loadnetworkpower INTEG I(Lspri) *(-V(N_Res)+V(N_Top_Mid)) FROM {TSTOP-50*TPER} TO {TSTOP}

.meas loss1 PARAM (-siwtchloss1/Pin)
.meas loss2 PARAM (-siwtchloss2/Pin)
.meas loss3 PARAM (-D1loss /Pin)
.meas loss4 PARAM (-D2loss /Pin)
.meas loss5 PARAM (-D3loss /Pin)
.meas loss6 PARAM (-D4loss /Pin)
;.meas loss7 PARAM (-LFApower/Pin)
;.meas loss8 PARAM (-LFBpower/Pin)
;.meas loss9 PARAM (-LMRapower/Pin)
;.meas loss10 PARAM (-LMRbpower/Pin)
;.meas loss11 PARAM (-CMRpower/Pin)
;.meas loss12 PARAM (-Coil2power/Pin)
*Vds
;.meas Vds1max_static MAX V(N_Bot_Mid) FROM {TSTOP-20*TPER} TO {TSTOP}
;.meas Vds2max_static MAX V(N_Top_Mid) FROM {TSTOP-20*TPER} TO {TSTOP}
;.meas Vds1max_trans MAX V(N_Bot_Mid)
;.meas Vds2max_trans MAX V(N_Top_Mid)

*CMR
;.meas VCMRmax_static MAX V(Mid_Node) FROM {TSTOP-20*TPER} TO {TSTOP}
;.meas VCMRmax_trans MAX V(Mid_Node)

*Cs1
;.meas VCs1max_static MAX V(N_Top_Mid)-V(N_Cs1) FROM {TSTOP-20*TPER} TO {TSTOP}
;.meas VCs1max_trans MAX V(N_Top_Mid)-V(N_Cs1)

*Cs2
*.meas VCs2max_static MAX V(Sec_mid )-V(Sec_r) FROM {TSTOP-20*TPER} TO {TSTOP}
*.meas VCs2max_trans MAX V(Sec_mid )-V(Sec_r)

.end

